US06960578B2
4-[2-(3-Imidazol-1-yl-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-7-yl]-benzonitrile
Prepared from {4′-cyano-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester (Example K41) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (128 mg).

reactant | {4′-cyano-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)C#N)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C30H27N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(3-Imidazol-1-yl-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-7-yl]-benzonitrile | 128 mg | N1(C=NC=C1)C=1C=C(C=CC1)C=1CC(NC2=C(N1)C=CC(=C2)C2=CC=C(C#N)C=C2)=O | C25H17N5O
